Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever, abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ woman with a history of lupus (c/p photosensitive
rash over face and back and lupus nephritis), psoriasis and PsA
who presents today with 24 hours of fever mild abdominal pain in
the setting of recent renal biopsy.  

Patient started notes that she had a fever yesterday to ___.
Patient was concerned enough about her fevers possibly
representing a lupus flare that she self-increased her 
prednisone
yesterday from normal dose of 10 mg to 20 mg. Patient notes
symptoms of rash on her back and joint pain in her fingers. 

She had a renal biopsy performed on ___ and notes fairly
continuous LLQ pain since the biopsy. She describes a dull 
aching
pain with no radiation and no relation to p.o. intake. Her
abdomen "hurts when she moves". The pain is unrelated to her
fever. She denies any associated diarrhea, nausea, vomiting,
constipation or obstipation. Denies associated dysuria or
hematuria. Notes a swollen lymph node on the left side, which 
has
enlarged slightly over the last ___ weeks. It is currently 
mildly
tender.
 
Her nephrologist is Dr. ___ main rheumatologist is 
Dr.
___. Was recently placed on prednisone 10 mg by Dr. ___ in
rheumatology; she has failed multiple other regimens for her
lupus due to drug intolerances including MTX, Ustekinumab and
Humira. She took her first dose of Ustekinumab (___) and is
to take the next dose in 4 weeks Plan is for MMF in the
near-future once LFTs normalize (prior hepatotoxicity attributed
to MTX). 
 
Past Medical History:
 SLE  
 Psoriasis  
 Psoriatic Arthritis  
 Left Wrist surgery
 
Social History:
___
Family History:
 There is no family history of inflammatory arthritis or
connective tissue disease.  
 
Physical Exam:
ADMISSION EXAM
==================================
 VITALS: 98.4 ___ 18 97|RA  
 GENERAL: Sitting in bed comfortably. 
 HEENT: PERRLA. EOMI. Sclera anicteric without injection. Small
area of ulceration on anterior aspect of palate. No tonsilar
exudates or cobblestoning. 
 NECK: Thyroid is normal in size and texture, no nodules. Mildly
enlarged left posterior auricular lymph node with mild TTP.  
 CARDIAC: RRR. No murmurs/rubs/gallops.  
 LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields. No wheezes, rhonchi or rales.
No increased work of breathing.  
 BACK: No spinous process tenderness. No CVA tenderness.
 ABDOMEN: Normal bowels sounds, non distended, minimal TTP in
LLQ. Otherwise non-tender. 
 EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial
2+ bilaterally.  
 SKIN: Malar rash present on face. Erythematous, macular rash on
back.   
 NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation.
 
DISCHARGE EXAM
==================================
Vital signs stable.
General: Well appearing woman in no acute distress. Comfortable. 
AAOx3.
HEENT: Normocephalic, atraumatic. EOMI. MMM. Malar rash 
improving.
Cardiac: Regular rate & rhythm. Normal S1/S2. No murmurs, rubs, 
or gallops.
Pulmonary: Clear to auscultation bilaterally. Breathing 
comfortably on room air.
Abdomen: Soft, non-tender, non-distended.
Extremities: Warm, well perfused, non-edematous. 
Back: Rash improved, less erythematous. 
 
Pertinent Results:
ADMISSION LABS
===========================
___ 01:05PM BLOOD WBC-8.7# RBC-4.19 Hgb-12.7 Hct-38.3 
MCV-91 MCH-30.3 MCHC-33.2 RDW-13.6 RDWSD-45.5 Plt ___
___ 01:05PM BLOOD Neuts-78.8* Lymphs-15.8* Monos-4.6* 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-6.87*# AbsLymp-1.38 
AbsMono-0.40 AbsEos-0.01* AbsBaso-0.01
___ 01:05PM BLOOD Plt ___
___ 01:05PM BLOOD Glucose-101* UreaN-9 Creat-0.5 Na-132* 
K-4.1 Cl-100 HCO3-21* AnGap-11
___ 01:05PM BLOOD ALT-32 AST-49* AlkPhos-65 TotBili-0.9
___ 01:05PM BLOOD Albumin-3.6
___ 02:46PM BLOOD CRP-32.2* dsDNA-POSITIVE*
___ 02:46PM BLOOD C3-45* C4-3*
___ 01:09PM BLOOD Lactate-1.2
___ 04:22PM URINE Color-Straw Appear-Clear Sp ___
___ 02:40PM URINE Color-Straw Appear-Hazy* Sp ___
___ 12:55PM URINE Color-Straw Appear-Hazy* Sp ___
___ 04:22PM URINE Blood-SM* Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-SM*
___ 02:40PM URINE Blood-TR* Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG*
___ 12:55PM URINE Blood-TR* Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-LG*
___ 04:22PM URINE RBC-1 WBC-19* Bacteri-FEW* Yeast-NONE 
Epi-3
___ 02:40PM URINE RBC-3* WBC-40* Bacteri-FEW* Yeast-NONE 
Epi-8
___ 12:55PM URINE RBC-4* WBC-62* Bacteri-FEW* Yeast-NONE 
Epi-14 TransE-1
___ 04:22PM URINE Hours-RANDOM
___ 02:40PM URINE Hours-RANDOM Creat-19 TotProt-117 
Prot/Cr-6.2*
___ 12:55PM URINE Hours-RANDOM Creat-22 TotProt-115 
Prot/Cr-5.2*
___ 02:40PM URINE UCG-NEGATIVE
  
PERTINENT LABS
===========================
___ 06:25AM BLOOD WBC-5.9 RBC-3.65* Hgb-11.1* Hct-33.6* 
MCV-92 MCH-30.4 MCHC-33.0 RDW-13.6 RDWSD-45.3 Plt ___
___ 06:25AM BLOOD Albumin-3.1* Calcium-8.1* Phos-3.6 Mg-1.8
___ 02:46PM BLOOD CRP-32.2* dsDNA-POSITIVE*
___ 02:46PM BLOOD C3-45* C4-3*
___ 01:09PM BLOOD Lactate-1.2
___ 12:55PM URINE RBC-4* WBC-62* Bacteri-FEW* Yeast-NONE 
Epi-14 TransE-1
___ 12:55PM URINE Blood-TR* Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-LG*
 
DISCHARGE LABS
===========================
___ 06:25AM BLOOD WBC-5.9 RBC-3.65* Hgb-11.1* Hct-33.6* 
MCV-92 MCH-30.4 MCHC-33.0 RDW-13.6 RDWSD-45.3 Plt ___
___ 06:25AM BLOOD Plt ___
___ 06:25AM BLOOD Glucose-89 UreaN-12 Creat-0.5 Na-138 
K-3.6 Cl-103 HCO3-23 AnGap-12
___ 06:25AM BLOOD ALT-27 AST-34 LD(LDH)-206 AlkPhos-61 
TotBili-0.5
___ 06:25AM BLOOD Albumin-3.1* Calcium-8.1* Phos-3.6 Mg-1.8
 
PERTINENT STUDIES
===========================
CT ABD/PELVIS (___)
Left perinephric hematoma, small in overall volume, without 
evidence of active bleeding or pseudoaneurysm formation.  Linear 
hypodense tract in the lower pole of the left kidney reflects 
sequelae of recent biopsy. 
 
MICRO
===========================
UCx WITH MIXED BACTERIAL FLORA
BCx NO GROWTH TO DATE
 
Brief Hospital Course:
___ woman with long standing history of lupus, 
psoriasis, and psoriatic arthritis with DIP arthritis presented 
for fever and left flank pain following recent left renal 
biopsy. 

# FEVER
# LEFT FLANK PAIN
Initially presented for fever and left flank pain after recent 
left renal biopsy. Upon arrival was hemodynamically stable 
without leukocytosis, though of note is immunosuppressed for 
treatment of rheumatologic disorders. Underwent CT 
abdomen/pelvis notable for left renal hematoma though without 
evidence of infection. Received ceftriaxone x2 days, then 
discontinued given improvement in symptoms and reassuring CT 
abdomen findings. UCx with mixed bacterial flora. Pain was most 
likely secondary to renal hematoma and was improved by time of 
discharge.

# SUBACUTE LUPUS FLARE
Upon presentation was noted to have significant malar and back 
rash typical for her lupus flares. Ongoing issue over past ___ 
months though given new fever patient took additional 10 mg 
prednisone at home (20 mg total). Evaluated by rheumatology who 
recommended increasing to 30 mg daily and starting MMF 500 twice 
daily as treatment for her subacute flare. Rash significantly 
improved by second hospital day (discharge date). Plan for 
outpatient rheumatology follow up with steroid taper to be 
determined at that time.

TRANSITIONAL ISSUES
================================
 [ ] Please re-check LFTs as patient had transaminitis, likely 
from secukinumab, per outpatient rheumatology, which was 
down-trending at time of discharge.
 [ ] Please follow up blood cultures, urine cultures, dsDNA 
(pending)
 [ ] Please check for resolution of cervical lymphadenopathy
 [ ] Regarding skin rash, patient has follow up with dermatology 

 [ ] Please consider adding PCP prophylaxis ___ receive 
prolonged high-dose steroids.

#CONTACT: ___ (___) 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 10 mg PO DAILY 
2. Hydroxychloroquine Sulfate 100 mg PO DAILY 
3. Ustekinumab 45 mg IV EVERY 4  WEEKS (FR) 
4. FoLIC Acid 1 mg PO DAILY 

 
Discharge Medications:
1.  Mycophenolate Mofetil 500 mg PO BID 
RX *mycophenolate mofetil 500 mg 1 tablet(s) by mouth every 12 
hours Disp #*60 Tablet Refills:*0 
2.  PredniSONE 30 mg PO DAILY 
RX *prednisone 10 mg 3 tablet(s) by mouth daily Disp #*42 Tablet 
Refills:*0 
3.  FoLIC Acid 1 mg PO DAILY  
4.  Hydroxychloroquine Sulfate 100 mg PO DAILY  
5.  Ustekinumab 45 mg IV EVERY 4  WEEKS (FR)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
left renal hematoma

SECONDARY DIAGNOSIS
sub-acute lupus flare

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It has been a pleasure taking care of you during your admission 
to ___.

Why you were admitted to the hospital:
==============================================
- You had significant left sided abdominal and back pain, as 
well as fevers to 102 degrees Fahrenheit at home. 

What happened at the hospital:
==============================================
- You underwent a number of tests, including a physical exam, 
laboratory tests, and imaging of your abdomen, and this showed a 
very small area of bleeding near the left kidney, likely from 
your recent kidney biopsy. This was very small and will likely 
improve on its own.
- You were seen by the rheumatology team, who recommended you 
follow up with them as an outpatient for the ongoing management 
of lupus. Your prednisone dose was increased and you were 
started on a new medication called mycophenolate.
- You received antibiotics for what was initially thought to be 
a urinary tract infection, however this was stopped and you do 
not need to take an antibiotic at home.

What you should do when you go home:
==============================================
- Please take your medications as prescribed in the discharge 
papers.
- Please follow up with the appointments as listed below
- Should you notice any new or concerning symptom, please seek 
immediate medical attention.

We wish you the best!
- Your ___ care team
 
Followup Instructions:
___